US04154846
A. N-[4-(Hydroxymethyl)-2-nitrophenyl]acetamide
8.3 ml (108 mmol) methyl chloroformate dissolved in 25 ml tetrahydrofuran (THF) is added dropwise over 15 minutes to a solution of 23.9 g (107 mmol) 4-(acetylamino)-3-nitrobenzoic acid and 14.8 ml (107 mmol) triethylamine in 150 ml dry THF under nitrogen and chilled in an acetone/ice bath. The temperature is kept below -5°. After stirring at -5° for 30 minutes, the triethylamine.HCl is filtered off and washed with 30 ml cold THF. The combined filtrates are added dropwise to a stirred solution of 10.3 g (108 mmol) sodium borohydride in 100 ml water chilled in an acetone/ice bath. The temperature is not allowed to exceed 15°. The resulting mixture is stirred at room temperature for 4 hours. After acidification with concentrated hydrochloric acid, the reaction mixture is taken up in ethyl acetate which is washed with water, 10% NaOH (X 2), water (X 2), dried (Na2SO 4), and evaporated: 17 g. This material is crystallized from 20 ml methanol to give 9.1 g of the title compound, m.p. 114°-115°.

reactant | methyl chloroformate | 108 mmol, 8.3 ml | ClC(=O)OC | C2H3ClO2
reactant | 4-(acetylamino)-3-nitrobenzoic acid | 107 mmol, 23.9 g | C(C)(=O)NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H8N2O5
reactant | sodium borohydride | 108 mmol, 10.3 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | THF | 150 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 107 mmol, 14.8 ml | C(C)N(CC)CC | C6H15N
product | N-[4-(Hydroxymethyl)-2-nitrophenyl]acetamide | 9.1 g | OCC1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-] | C9H10N2O4
